US08729102B2
A) methyl 3-(3-fluoro-2-hydroxypropoxy)isoxazole-5-carboxylate
A mixture of methyl 3-hydroxyisoxazole-5-carboxylate (1.88 g), 2-(fluoromethyl)oxirane (1.00 g), potassium carbonate (1.82 g) and DMF (2 mL) was stirred at room temperature for 2 hr, and then at 70° C. overnight. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The obtained organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound as a white powder (585 mg).

reactant | methyl 3-hydroxyisoxazole-5-carboxylate | 1.88 g | OC1=NOC(=C1)C(=O)OC | C5H5NO4
reactant | 2-(fluoromethyl)oxirane | 1.00 g | FCC1OC1 | C3H5FO
reactant | potassium carbonate | 1.82 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | methyl 3-(3-fluoro-2-hydroxypropoxy)isoxazole-5-carboxylate | 585 mg | FCC(COC1=NOC(=C1)C(=O)OC)O | C8H10FNO5
